US03933472
4'-Chloro-3',5'-dinitroacetophenone
A mixture of 22.6 grams (0.1 mole) of 3',5'-dinitro-4'-hydroxyacetophenone, 19.0 grams of p-toluenesulfonyl chloride (0.1 mole), 16.0 grams (0.107 mole) of diethylaniline, and 18.0 grams of nitrobenzene was heated at about 95° C. for 8 hours. The reaction mixture was poured into 200 milliliters of 10 percent aqueous hydrochloric acid and the nitrobenzene steam distilled from the mixture. The residue was cooled to room temperature, the aqueous layer decanted, and the dark oil which slowly solidified (yield 87.5 percent) recrystallized from ethanol (charcoal) to give a pale yellow crystalline compound, melting point 86°-86.5° C.

reactant | 3',5'-dinitro-4'-hydroxyacetophenone | 0.1 mole, 22.6 grams | [N+](=O)([O-])C=1C=C(C=C(C1O)[N+](=O)[O-])C(C)=O | C8H6N2O6
reactant | p-toluenesulfonyl chloride | 0.1 mole, 19.0 grams | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | diethylaniline | 0.107 mole, 16.0 grams | CCN(CC)C=1C=CC=CC1 | C10H15N
reactant | nitrobenzene | 18.0 grams | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
solvent | hydrochloric acid | 200 milliliters | Cl | ClH
product | 4'-Chloro-3',5'-dinitroacetophenone | yield 87.5 percent | ClC1=C(C=C(C=C1[N+](=O)[O-])C(C)=O)[N+](=O)[O-] | C8H5ClN2O5
